US08114868B2
5-Bromo-1-cyclopropylmethyl-1H-pyridin-2-one
KOtBu (0.68 g) was added to a solution of 5-bromo-1H-pyridin-2-one (1.00 g) in tetrahydrofuran (20 mL) at room temperature. After stirring for 30 min, cyclopropylmethyl bromide (0.77 mL) and dimethylformamide (3 mL) were added to the suspension and the resulting mixture was warmed to 70° C. After stirring the mixture at 70° C. for 2 h, the reaction was complete. The mixture was cooled to room temperature, diluted with ethyl acetate (50 mL), and washed with water (2×20 mL) and brine (20 mL). Then, the solution was dried (MgSO4) and the solvent was removed to give the title compound as a colorless oil. Yield: 1.18 g (90% of theory). Mass spectrum (ESI+): m/z=228/230 (Br) [M+H]+

reactant | KOtBu | 0.68 g | CC(C)(C)[O-].[K+]
reactant | 5-bromo-1H-pyridin-2-one | 1.00 g | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | cyclopropylmethyl bromide | 0.77 mL | C1(CC1)CBr | C4H7Br
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-1-cyclopropylmethyl-1H-pyridin-2-one | BrC=1C=CC(N(C1)CC1CC1)=O | C9H10BrNO
